US05250517
In a manner analogous to that described in Example 1 for the preparation of (αS,βS)-β-t-butoxycarbonylamino-α-[(S)-2-isopropyl-3-butenyl]cyclohexanepropanol, from 56.6 g (320 mmol) of (RS)-2-isopropyl-3-butenyl bromide 7.7 g of magnesium and 24.2 g of N-t-butoxycarbonyl-L-phenylalanal26 there were obtained 15.6 g (49%) of t-butyl [(1S,2S,4S)-1-benzyl-2-hydroxy-4-isopropyl-5-hexenyl]carbamate as an epimer mixture. The desired (1S,2S,4S)-epimer was isolated as the less polar isomer. MS: 256 (M-benzyl)+, by flash chromatography on silica 5 gel using a 9:1 mixture of methylene chloride and ether as the eluting agent.

reactant | (αS,βS)-β-t-butoxycarbonylamino-α-[(S)-2-isopropyl-3-butenyl]cyclohexanepropanol | C(C)(C)(C)OC(=O)N[C@H]([C@@H](O)C[C@H](C=C)C(C)C)CC1CCCCC1 | C21H39NO3
reactant | (RS)-2-isopropyl-3-butenyl bromide | 320 mmol, 56.6 g | C(C)(C)C(CBr)C=C | C7H13Br
reactant | magnesium | [Mg] | Mg
product | t-butyl [(1S,2S,4S)-1-benzyl-2-hydroxy-4-isopropyl-5-hexenyl]carbamate | 15.6 g, 49% | C(C1=CC=CC=C1)[C@@H]([C@H](C[C@H](C=C)C(C)C)O)NC(OC(C)(C)C)=O | C21H33NO3
